US07838483B2
To a solution of diethyl malonate (1 g, 6.2 mmol) and Triton B (40% in MeOH, 0.13 g, 0.31 mmol) in dioxane (1.2 cm3) was added dropwise acrylonitrile (0.658 g, 12.4 mmol) and the mixture was stirred at 60° C. overnight. The mixture was then cooled to room temperature and neutralized with 0.1 M HCl (3 cm3) and poured to ice-water (10 cm3). Crystals precipitated during 30 min. These were collected by filtration and recrystallised from EtOH (cooling in freezer before filtering off) to give diethyl 2,2-bis(2-cyanoethyl)malonate (1.25 g, 75.8%) as a white solid, mp 62.2-63.5° C.

reactant | diethyl malonate | 6.2 mmol, 1 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | acrylonitrile | 12.4 mmol, 0.658 g | C(C=C)#N | C3H3N
reactant | HCl | 0.1 M, 3 cm3 | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | dioxane | 1.2 cm3 | O1CCOCC1 | C4H8O2
product | diethyl 2,2-bis(2-cyanoethyl)malonate | 1.25 g, 75.8% | C(#N)CCC(C(=O)OCC)(C(=O)OCC)CCC#N | C13H18N2O4
